US05760050
8-Methoxy-3-phenethyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
A mixture of 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one (1.5 g, 6.5 mmol), potassium carbonate (0.50 g, 4.7 mmol), and (2-bromethyl)benzene (1.0 mL, 1.4 g, 7.3 mmol) in 10 mL of N,N-dimethylformamide is heated at 900 for 18 hours. The cooled reaction mixture is added to 300 mL of water and 150 mL of ethyl ether. The insoluble material is filtered and washed with fresh ethyl ether. Recrystallization of the solid from aqueous 2-propanol gives 0.60 g (27%) of product; mp 135°-136° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | 6.5 mmol, 1.5 g | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | potassium carbonate | 4.7 mmol, 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromethyl)benzene | 7.3 mmol, 1.0 mL, 1.4 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | water | 300 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
product | 8-Methoxy-3-phenethyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | 0.60 g, 27% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CCC1=CC=CC=C1)=O | C21H21NO3
